US06350845B1
39.6 g (0.2mol) of 3,5-dinitrobenzyl alcohol, 23.7 g (0.3 mol) of pyridine and 200 ml of methyl ethyl ketone were introduced into a reactor and dissolved by stirring under a nitrogen gas stream at about 70° C. 35.3 g (0.2 mol) of pelargonic acid chloride was dissolved in 100 ml of methyl ethyl ketone and the resultant solution was added dropwise into the reactor as described above. After the completion of the addition, the mixture was refluxed and stirred under nitrogen for about 2 hours. Then the reactor was cooled by allowing to stand and pyridine hydrochloride was removed by filtration. The filtrate was concentrated and purified by using a column to give 50.8 g of 3,5-dinitrobenzyl pelargonate. 33.8 g of 3,5-dinitrobenzyl pelargonate and 4 g of a catalyst (5% palladium carried on active carbon) were introduced into a hydrogenation apparatus and reduced with hydrogen. After filtration and concentration, 27.8 g (0.1 mol) of 3,5-diaminobenzyl pelargonate was obtained.

reactant | 3,5-dinitrobenzyl alcohol | 0.2mol, 39.6 g | [N+](=O)([O-])C=1C=C(CO)C=C(C1)[N+](=O)[O-] | C7H6N2O5
reactant | pyridine | 0.3 mol, 23.7 g | N1=CC=CC=C1 | C5H5N
reactant | pelargonic acid chloride | 0.2 mol, 35.3 g | C(CCCCCCCC)(=O)Cl | C9H17ClO
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
solvent | methyl ethyl ketone | 200 ml | C(C)C(=O)C | C4H8O
product | 3,5-dinitrobenzyl pelargonate | 50.8 g | C(CCCCCCCC)(=O)OCC1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-] | C16H22N2O6
